US06730687B1
5-[(4-Methoxyphenyl)methylidene]thiazolidine-2,4-dione
4-Methoxybenzaldehyde (20.4 g, 150 mmol), thiazolidine-2,4-dione (21.1 g, 180 mmol), piperidine (12.8 g, 150 mmol) and ethanol (150 mL) were mixed and refluxed for 18 hours. After allowed to stand for cooling, the precipitated crystals were collected by filtration. These were washed with ethanol, and then dried to obtain 11.2 g (32%) of the title compound as yellow crystals. Moreover, the filtrate was made acidic with concentrated hydrochloric acid, and the precipitated crystals were collected by filtration, washed with ethanol and water, and then dried to additionally obtain 18.1 g (51%, totally 83%) of the title compound as yellow crystals.

reactant | 4-Methoxybenzaldehyde | 150 mmol, 20.4 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | thiazolidine-2,4-dione | 180 mmol, 21.1 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 150 mmol, 12.8 g | N1CCCCC1 | C5H11N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 5-[(4-Methoxyphenyl)methylidene]thiazolidine-2,4-dione | 11.2 g, 32% | COC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C11H9NO3S
